US08895733B2
Intermediate 243: Methyl 6-[2-(2,2,2-trifluoroethoxy)ethoxy]pyridine-3-carboxylate
2-(2,2,2-Trifluoroethoxy)ethanol (0.462 g, 3.21 mmol) was dissolved in THF (5 mL) and cooled to 0 C. Potassium tert-butoxide (0.360 g, 3.21 mmol) was added, the mixture was stirred for 5 min and methyl 6-chloronicotinate (0.500 g, 2.91 mmol) was added. The mixture was warmed to room temperature and stirred for 3 h. Brine (10 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined organic layers were dried over sodium sulfate and concentrated to yield a yellow oil, which was purified by FCC to afford the title compound as a colourless oil (0.453 g, 56%). 1H NMR (500 MHZ, CDCl3) δ ppm 8.73 (1H, d), 8.10 (1H, dd), 6.74 (1H, d), 4.50 (2H, t), 3.93 (2H, t), 3.87 (2H, q) and 3.84 (3H, s).

reactant | 2-(2,2,2-Trifluoroethoxy)ethanol | 3.21 mmol, 0.462 g | FC(COCCO)(F)F | C4H7F3O2
reactant | Potassium tert-butoxide | 3.21 mmol, 0.360 g | CC(C)([O-])C.[K+]
reactant | methyl 6-chloronicotinate | 2.91 mmol, 0.500 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Brine | 10 mL | [Cl-].[Na+].O
product | Methyl 6-[2-(2,2,2-trifluoroethoxy)ethoxy]pyridine-3-carboxylate | 0.453 g, 56% | FC(COCCOC1=CC=C(C=N1)C(=O)OC)(F)F | C11H12F3NO4
